*****************************************************************
* NXP PSMN1R2-30YLD
*
* Polarity N-Channel
* Ratings 30V/1.240000E-003OHMS/100A
*
* Date Created Thu May 22 05:53:08 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R2-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000503316504098001 TC=0.00694476720325488,1.00277670509289E-05
RBD 9 4 0.000342245724583875 TC=0.00694476720325488,1.00277670509289E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 240000000
CGS 2 6 3.64224263221607e-09
RG 1 2 1.1524

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
*+ -12	3995.75
*+ -10	3992.38
*+ -8	3987.37
*+ -6	3978.22
*+ -5	3969.33
*+ -4	3951.12
*+ -3	3877.33
*+ -2	3406.83
+ -1	2052.07
+ -0.5	1546.18
+ -0.2	1328.19
+ -0.1	1323.95
+ 0	1220.445385
+ 0.1	1086.46962
+ 0.2	1084.90808
+ 0.5	949.34315
+ 1	805.82812
+ 2	648.68112
+ 3	556.15027
+ 4	486.09481
+ 5	428.31065
+ 6	385.66077
+ 8	337.16238
+ 10	314.85858
+ 12	302.99285
+ 15	292.73723



.MODEL MINT NMOS(Vto=2.1 Kp=1.0e+003 Nfs=160000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=2.99435762757029e-12
+ N=1 M=0.44 VJ=0.76 Fc=0.5 Cjo=6.64581385e-09 Tt=2.22e-08)

.ENDS

